US08217066B2
Step 1: 1-{4′-[4-(2-Benzyloxy-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 14, Step 4, using 1-[4′-(3-methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and benzyl alcohol.

reactant | 1-[4′-(3-methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1OC1 | C24H23NO4
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 1-{4′-[4-(2-Benzyloxy-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(COCC1=CC=CC=C1)O | C31H31NO5
